US07737149B2
4-(1-Cyclopropylpiperidin-4-yl)-N-[5-[2-(3,5-dimethoxyphenyl)ethyl]-2H-pyrazol-3-yl]benzamide
Methyl 4-(1-cyclopropylpiperidin-4-yl)benzoate (0.259 g, 1 mmol), 5-[2-(3,5-dimethoxyphenyl)ethyl]-2H-pyrazol-3-amine (0.247 g, 1.00 mmol) in toluene (10 ml) was treated with a 2M solution of trimethylaluminium (1.250 ml, 2.50 mmol) in toluene,under nitrogen. The reaction mixture was heated at 60° C. for 18 h. The reaction mixture was cooled and the reaction quenched with methanol (40 ml) and acidified with 2N HCl (1 ml). The crude reaction mixture was purified by ion exchange chromatography, using an SCX column. The crude product was eluted from the column using 7M NH3/MeOH and fractions were evaporated to dryness. The crude product was purified by silica column chromatography, eluting with a gradient of 0 to 5% 2.5M ammonia/methanol in DCM. Pure fractions were evaporated to dryness and the product crystallised from DCM/diethyl ether to give the title compound (0.170 g, 35.8%) as a white solid.

reactant | Methyl 4-(1-cyclopropylpiperidin-4-yl)benzoate | 1 mmol, 0.259 g | C1(CC1)N1CCC(CC1)C1=CC=C(C(=O)OC)C=C1 | C16H21NO2
reactant | 5-[2-(3,5-dimethoxyphenyl)ethyl]-2H-pyrazol-3-amine | 1.00 mmol, 0.247 g | COC=1C=C(C=C(C1)OC)CCC=1C=C(NN1)N | C13H17N3O2
reactant | trimethylaluminium | 2.50 mmol, 1.250 ml | C[Al](C)C
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 4-(1-Cyclopropylpiperidin-4-yl)-N-[5-[2-(3,5-dimethoxyphenyl)ethyl]-2H-pyrazol-3-yl]benzamide | 0.170 g, 35.8% | C1(CC1)N1CCC(CC1)C1=CC=C(C(=O)NC=2NN=C(C2)CCC2=CC(=CC(=C2)OC)OC)C=C1 | C28H34N4O3
